US05143920
3-Butyryl-6-methoxy-4(1H)-quinolone (20 g) was heated under reflux in phosphorus oxychloride for 1 hour. The mixture was cooled, poured onto ice and carefully neutralized with ammonia solution. The mixture was extracted with dichloromethane and the combined extracts washed with sodium hydrogen carbonate solution (×2) and brine. The organic solution was dried, filtered and evaporated to give 3-butyryl-4-chloro-6-methoxy-quinoline (13.3 g, 62%) as an oil which crystallized from ether/petrol; m.p. 73°-75°.

reactant | 3-Butyryl-6-methoxy-4(1H)-quinolone | 20 g | C(CCC)(=O)C1=CNC2=CC=C(C=C2C1=O)OC | C14H15NO3
reactant | ammonia | N | H3N
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-butyryl-4-chloro-6-methoxy-quinoline | 13.3 g, 62% | C(CCC)(=O)C=1C=NC2=CC=C(C=C2C1Cl)OC | C14H14ClNO2
